US07772285B2
5.30 g of methyl 4-[(acetyloxy)methyl]-3-bromobenzoate was dissolved in 50 mL of hexamethylphosphoramide, to which 6.6 mL of tetramethyltin and 0.26 g of bis(triphenylphosphine)-palladium(II) dichloride were added at room temperature in a stream of nitrogen, and this solution was stirred for 3 hours at 70° C. The reaction mixture was cooled to room temperature, and was added to a mixture of water and diethyl ether, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=5:1] to yield 4.17 g of methyl 4-[(acetyloxy)methyl]-3-methylbenzoate as brown oil.

reactant | methyl 4-[(acetyloxy)methyl]-3-bromobenzoate | 5.30 g | C(C)(=O)OCC1=C(C=C(C(=O)OC)C=C1)Br | C11H11BrO4
reactant | water | O | H2O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | hexamethylphosphoramide | 50 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetramethyltin | 6.6 mL | C[Sn](C)(C)C
catalyst | bis(triphenylphosphine)-palladium(II) dichloride | 0.26 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 4-[(acetyloxy)methyl]-3-methylbenzoate | 4.17 g | C(C)(=O)OCC1=C(C=C(C(=O)OC)C=C1)C | C12H14O4
